US08754242B2
A mixture of (1RS, 2SR,6RS,7SR)-4-bromo-5-methoxy-10-oxatricyclo[5.2.1.02,6]dec-4-en-3-one (0.315 g, 1.2 mmol), 2,6-diethyl-4-methylphenylboronic acid (0.35 g, 1.8 mmol), 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (20 mg, 0.048 mmol), palladium (II)acetate (5.5 mg, 0.024 mmol) and potassium phosphate (0.51 g, 2.4 mmol) are heated in degassed toluene at 95° C. for 24 hours. The reaction mixture is partitioned between dichloromethane and water, and the organic phase is dried over anhydrous magnesium sulfate, filtered and the filtrate is evaporated under reduced pressure. The residue is purified by column chromatography on silica gel to give (1RS,2SR,6RS,7SR)-4-(2,6-diethyl-4-methylphenyl)-5-methoxy-10-oxatricyclo[5.2.1.02,6]dec-4-en-3-one.

reactant | (1RS, 2SR,6RS,7SR)-4-bromo-5-methoxy-10-oxatricyclo[5.2.1.02,6]dec-4-en-3-one | 1.2 mmol, 0.315 g | BrC=1C(C2C3CCC(C2C1OC)O3)=O | C10H11BrO3
reactant | 2,6-diethyl-4-methylphenylboronic acid | 1.8 mmol, 0.35 g | C(C)C1=C(C(=CC(=C1)C)CC)B(O)O | C11H17BO2
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 0.048 mmol, 20 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | potassium phosphate | 2.4 mmol, 0.51 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | palladium (II)acetate | 0.024 mmol, 5.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (1RS,2SR,6RS,7SR)-4-(2,6-diethyl-4-methylphenyl)-5-methoxy-10-oxatricyclo[5.2.1.02,6]dec-4-en-3-one | C(C)C1=C(C(=CC(=C1)C)CC)C=1C(C2C3CCC(C2C1OC)O3)=O | C21H26O3
